US04025644
In 30 ml of tetrahydrofuran was dissolved 1.0 g of methyl (N-(4-chlorobenzyloxycarbonyl)-tyrosinate. To the solution was added dropwise 10 ml of tetrahydrofuran solution containing 4.2 ml of sodium dihydro-bis-(2-methoxyethoxy) aluminate (65% toluene solution) with stirring while cooling with ice. The mixture was stirred at room temperature for one hour. After addition of 200 ml of 3% hydrochloric acid, the reaction mixture was concentrated in vacuo and extracted with ethyl acetate. The extract was washed with water, dried and concentrated to dryness. The residue was dissolved in chloroform and subjected to column chromatography with 10 g of silicagel to give 509 mg of N-(4-chlorobenzyloxycarbonyl)-tyrosinol: yield 56%.

reactant | N-(4-chlorobenzyloxycarbonyl)-tyrosinate | ClC1=CC=C(COC(=O)N[C@@H](CC2=CC=C(C=C2)O)C(=O)[O-])C=C1
reactant | hydrochloric acid | 200 ml | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-(4-chlorobenzyloxycarbonyl)-tyrosinol | 509 mg, yield 56% | ClC1=CC=C(COC(=O)N[C@@H](CC2=CC=C(C=C2)O)CO)C=C1 | C17H18ClNO4
